US08735414B2
A mixture of (R)-6-(5-bromo-3-cyano-1-cyclopentyl-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide (0.54 g, 0.97 mmol), bis(pinacolato)diboron (0.5 g, 2.0 mmol), PdCl2dppf-CH2Cl2 complex (16 mg, 0.02 mmol) and potassium acetate (0.40 g, 4.0 mmol) in dioxane (5 mL) was stirred at 80° C. overnight. The mixture was then cooled to room temperature, diluted with ethyl acetate and filtered through a silica-celite pad. The filtrate was concentrated, dissolved in acetone (10 mL) and cooled to 0° C. Into this solution was added an aqueous solution of Oxone (10 mL, 1.0 M). The mixture was stirred at room temperature for 15 min and diluted with ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The organic extractions were combined and washed with aq. NaHSO3 and brine, dried over Na2SO4, and concentrated. Purification on silica gel eluting with 40% ethyl acetate in hexane gave (R)-6-(3-cyano-1-cyclopentyl-5-hydroxy-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide as a yellow solid (0.40 g, 84%); Melting point: 239-240° C.; MS m/z 493.2 M+H+; 1H NMR (500 MHz, CD3COCD3) δ 9.24 (dd, J=2.30, 0.65 Hz, 1H), 8.50 (dd, J=8.25, 2.35 Hz, 1H), 8.42 (s, 1H), 8.10 (dd, J=8.25, 0.85 Hz, 1H), 7.47 (bs, 1H), 7.54 (s, 1H), 7.15 (s, 1H), 5.30-5.26 (m, 1H), 4.40-4.35 (m, 1H), 2.40 (s, 3H), 2.34-2.31 (m, 2H), 2.16-2.14 (m, 2H), 2.10-2.07 (m, 2H), 1.74-1.72 (m, 2H), 1.21 (d, J=2.25 Hz, 3H).

reactant | (R)-6-(5-bromo-3-cyano-1-cyclopentyl-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide | 0.97 mmol, 0.54 g | FC([C@@H](C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=C(C=C2C1C#N)Br)C)C1CCCC1)(F)F | C23H22BrF3N4O2S
reactant | bis(pinacolato)diboron | 2.0 mmol, 0.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.0 mmol, 0.40 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-6-(3-cyano-1-cyclopentyl-5-hydroxy-6-methyl-1H-indol-2-yl)-pyridine-3-sulfonic acid (2,2,2-trifluoro-1-methyl-ethyl)-amide | 0.40 g, 84% | FC([C@@H](C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=C(C=C2C1C#N)O)C)C1CCCC1)(F)F | C23H23F3N4O3S
